US07842945B2
(ii) Synthesis of 1-bromo-9,10-diphenyl-9,10-dihydroanthracene-9,10-diol
9.37 g (32.4 mmol) of 1-bromoanthraquinone was put into a 500 mL three neck-flask, and the atmosphere of the flask was substituted with nitrogen. 150 mL of tetrahydrofuran (abbreviation: THF) was added to the flask, and then 34.0 mL (71.3 mmol) of phenyllithium (2.1 mol/L dibutyl ether solution) was added in one portion. The solution was stirred for 24 hours at room temperature. After the reaction was completed, the reaction solution was washed with water, and the aqueous layer was extracted with ethyl acetate. The extracted part was combined with the organic layer, and then dried with magnesium sulfate. After drying, the mixture was subjected to suction filtration, and the filtrate was concentrated, resulting in 14.4 g of 1-bromo-9,10-diphenyl-9,10-dihydroanthracene-9,10-diol as a brown, oily compound in 100% yield.

reactant | 1-bromoanthraquinone | 32.4 mmol, 9.37 g | BrC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H7BrO2
reactant | phenyllithium | 71.3 mmol, 2.1 mol/L, 34.0 mL | C1(=CC=CC=C1)[Li]
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 1-bromo-9,10-diphenyl-9,10-dihydroanthracene-9,10-diol | BrC1=CC=CC=2C(C3=CC=CC=C3C(C12)(O)C1=CC=CC=C1)(O)C1=CC=CC=C1 | C26H19BrO2
